US06107481
A stirred solution of tert-butyl (6R,7R)-3-(2,4-dinitrostyryl)-7-phenylacetamido-ceph-3-em-4-carboxylate (67.41 g, purity 8% E-isomer, 81% Z-isomer, 105.9 mmol) in dichloromethane (1685 ml) was cooled to -25° C. Titanium tetrachloride (53 ml, 482 mmol) was added in 10 min and the temperature was brought to 0° C. After 105 min a chilled 2 M solution of hydrochloric acid in water was added at such a rate that the temperature remained under 10° C. The organic phase was separated and extracted with a 2 M solution of hydrochloric acid in water (2×1685 ml) and brine (1685 ml). The organic phase was concentrated under reduced pressure to give an orange foam. Crude product thus obtained was crystallized by dissolving in acetone (1350 ml) at 65° C. and adding water (675 ml). Crystallization was allowed to proceed for 16 h at 0° C. and the crystals were collected by filtration. Recrystallization of the product was performed by dissolving the material in acetone/acetic acid (2:1) at 53° C., removing solvent (1700 ml) by evaporation under reduced pressure and stirring for 16 h at 20° C. Crystals were collected by filtration, washed with acetic acid (300 ml) and ether (250 ml), and dried under vacuum at 45° C. to give 34.33 g (purity 99% E-isomer, 66.6 mmol; yield 63%) of (6R,7R)-3-(2,4-dinitrostyryl)-7-phenylacetamido-ceph-3-em-4-carboxylic acid as yellow crystals.

reactant | tert-butyl (6R,7R)-3-(2,4-dinitrostyryl)-7-phenylacetamido-ceph-3-em-4-carboxylate | 105.9 mmol, 67.41 g | [N+](=O)([O-])C1=C(C=CC=2CS[C@H]3N(C2C(=O)OC(C)(C)C)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)C=CC(=C1)[N+](=O)[O-] | C27H26N4O8S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 1685 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
catalyst | Titanium tetrachloride | 482 mmol, 53 ml | [Ti](Cl)(Cl)(Cl)Cl
product | (6R,7R)-3-(2,4-dinitrostyryl)-7-phenylacetamido-ceph-3-em-4-carboxylic acid | 66.6 mmol, 34.33 g, yield 63% | [N+](=O)([O-])C1=C(C=CC=2CS[C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)C=CC(=C1)[N+](=O)[O-] | C23H18N4O8S
